US08283353B2
4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A solution of N-(1,4-dioxaspiro[4.5]dec-8-yl)-5-(trifluoromethyl)-1H-1,2,4-triazol-3-amine (9.87 g), ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (23.59 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (5.05 mL) in N,N-diethylaniline (50 mL) was stirred at 180° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with 1 N hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=80/20→60/40 (volume ratio)], and crystallized from diisopropyl ether to give the title compound as a colorless solid (7.91 g, 41%).

reactant | N-(1,4-dioxaspiro[4.5]dec-8-yl)-5-(trifluoromethyl)-1H-1,2,4-triazol-3-amine | 9.87 g | O1CCOC12CCC(CC2)NC2=NNC(=N2)C(F)(F)F | C11H15F3N4O2
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 23.59 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.05 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-diethylaniline | 50 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 7.91 g, 41% | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=C(N1)C(F)(F)F | C31H30F3N5O3
